*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay

.include ../../../work/lpe/LELOTEMP_BIAS_IBP_lpe.spi
#else
.include ../../../work/lpe/LELOTEMP_OTAR_lpe.spi
.include ../../../work/xsch/LELOTEMP_BIAS_IBP.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-3 method=gear
.options sparse

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------
.param TRF = 10p

.param AVDD = {vdda}

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS  0     dc 0
VDD  VDD_1V8  VSS  pwl 0 0 10n {AVDD}
VPWR  PWRUP_1V8  VSS  pwl 0 0 {t_start} 0 {{t_start}-1n} {AVDD}
VPWRN  PWRUP_N_1V8  VSS  pwl 0 {AVDD} {t_start} {AVDD} {{t_start}-1n} {0}

V0 IBP_1U<0> 0 dc 0.5
V1 IBP_1U<1> 0 dc 0.6
V2 IBP_1U<2> 0 dc 0.7
V3 IBP_1U<3> 0 dc 0.8

VLP LPI LPO dc 0

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------

.include ../xdut.spi



*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
#ifdef Debug
.save all
.option savecurrents=all
#endif

.save v(LPI)
.save i(V0)
.save i(V1)
.save i(V2)
.save i(V3)
.save i(vdd)



*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=8
set color0=white
set color1=black
unset askquit

optran 0 0 0 1n 1u 0

tran 1n {t_end}
write

quit

.endc

.end
